US08071624B2
Step 2. Ethyl (3S)-1-(2-fluoro-4-pyridin-4-ylphenyl)piperidine-3-carboxylate
A mixture of 4-(4-bromo-3-fluorophenyl)pyridine (190 mg, 0.00075 mol), ethyl (3S)-piperidine-3-carboxylate hydrochloride (180 mg, 0.00090 mol), sodium tert-butoxide (140 mg, 0.0015 mol), palladium acetate (5 mg, 0.00002 mol) and 2-(di-tert-butylphosphino)biphenyl (7 mg, 0.00002 mol) was evacuated and charged with nitrogen and 1,4-dioxane (5 mL, 0.06 mol). The resulting mixture was refluxed overnight. After cooling to ambient temperature, the mixture was filtered and the filtrate was adjusted with TFA to pH=7.0 and purified by CombiFlash (ethyl acetate in hexanes: 60%) to afford the desired product. LCMS: m/z 329.2 (M+H)+.

reactant | 4-(4-bromo-3-fluorophenyl)pyridine | 0.00075 mol, 190 mg | BrC1=C(C=C(C=C1)C1=CC=NC=C1)F | C11H7BrFN
reactant | ethyl (3S)-piperidine-3-carboxylate hydrochloride | 0.00090 mol, 180 mg | Cl.N1C[C@H](CCC1)C(=O)OCC
reactant | sodium tert-butoxide | 0.0015 mol, 140 mg | CC(C)([O-])C.[Na+]
reactant | 2-(di-tert-butylphosphino)biphenyl | 0.00002 mol, 7 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | 1,4-dioxane | 0.06 mol, 5 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.00002 mol, 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl (3S)-1-(2-fluoro-4-pyridin-4-ylphenyl)piperidine-3-carboxylate | FC1=C(C=CC(=C1)C1=CC=NC=C1)N1C[C@H](CCC1)C(=O)OCC | C19H21FN2O2
